US05574042
To a mixture of 8-(3-amino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine dihydrochloride (100 mg), pyridine (0.5 ml) and N-methylpyrrolidone (1.5 ml) was added ethyl isocyanate (0.10 ml). The mixture was stirred at 60° C. for 6 hours. The insoluble material was filtered off and washed with water. The filtrate and washings were combined and separated precipitate was collected by filtration. The precipitate was purified by preparative thin-layer chromatography (20% solution of methanol in dichloromethane) followed by recrystallization from n-hexane to give 3-bromo-8-[2,6-dichloro-3-(N'-ethylureido)benzyloxy]-2-methylimidazo[1,2-a]pyridine (13 mg) as crystals.

reactant | 8-(3-amino-2,6-dichlorobenzyloxy)-3-bromo-2-methylimidazo[1,2-a]pyridine dihydrochloride | 100 mg | Cl.Cl.NC=1C(=C(COC=2C=3N(C=CC2)C(=C(N3)C)Br)C(=CC1)Cl)Cl
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl isocyanate | 0.10 ml | C(C)N=C=O | C3H5NO
solvent | N-methylpyrrolidone | 1.5 ml | CN1C(CCC1)=O | C5H9NO
product | 3-bromo-8-[2,6-dichloro-3-(N'-ethylureido)benzyloxy]-2-methylimidazo[1,2-a]pyridine | 13 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)NC(=O)NCC)Cl)C | C18H17BrCl2N4O2
